US09371321B2
Step A: 1-(5-((S)-1-Aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)pyrrolidin-3-ol
A mixture of (S)-1-(6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethan-1-amine (510 mg, 2.0 mmol), pyrrolidin-3-ol (870 mg, 10 mmol) and potassium 2-methylpropan-2-olate (1.56 g, 14.0 mmol) in dioxane (15 mL) was heated to 150° C. for 2 hours in a microwave reactor. The solvent was evaporated in vacuo to give the title compound as a yellow oil which was used without further purification (1.5 g). ESI-MS m/z [M+H]+ calc'd for C14H20N4O, 261. found 261.

reactant | (S)-1-(6-bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethan-1-amine | 2.0 mmol, 510 mg | BrC=1C=C2C(=NC1[C@H](C)N)C=CN2C | C10H12BrN3
reactant | pyrrolidin-3-ol | 10 mmol, 870 mg | N1CC(CC1)O | C4H9NO
reactant | potassium 2-methylpropan-2-olate | 14.0 mmol, 1.56 g | CC(C)(C)[O-].[K+]
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 1-(5-((S)-1-Aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)pyrrolidin-3-ol | N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N2CC(CC2)O | C14H20N4O
